US07795453B2
6-[(Anilinocarbonyl)amino]-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide hydrochloride
A solution of 80 mg (0.21 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 4 ml of THF is mixed with 59.6 μl (0.43 mmol) of triethylamine and 50.9 mg (0.43 mmol) of phenyl isocyanate. After 16 h at room temperature, the reaction mixture is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 35 mg (35.8% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.21 mmol, 80 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.43 mmol, 59.6 μl | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.43 mmol, 50.9 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 6-[(Anilinocarbonyl)amino]-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide hydrochloride | Cl.N(C1=CC=CC=C1)C(=O)NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1 | InChI=1S/C23H24N4O2S.ClH/c28-22(26-19-14-27-10-8-15(19)9-11-27)21-12-16-6-7-18(13-20(16)30-21)25-23(29)24-17-4-2-1-3-5-17;/h1-7,12-13,15,19H,8-11,14H2,(H,26,28)(H2,24,25,29);1H/t19-;/m0./s1
